US08334287B2
4-[4-(3-chloro-phenylethynyl)-2,5-dimethyl-imidazol-1-yl]-1H-pyridin-2-one
The title compound, light brown crystalline solid, MS: m/e=324.2, 326.1 (M+H+), was prepared in accordance with the general method of example 21a from 4-(4-iodo-2,5-dimethyl-imidazol-1-yl)-1H-pyridin-2-one and 1-chloro-3-ethynyl-benzene.

reactant | 4-(4-iodo-2,5-dimethyl-imidazol-1-yl)-1H-pyridin-2-one | IC=1N=C(N(C1C)C1=CC(NC=C1)=O)C | C10H10IN3O
reactant | 1-chloro-3-ethynyl-benzene | ClC1=CC(=CC=C1)C#C | C8H5Cl
product | 4-[4-(3-chloro-phenylethynyl)-2,5-dimethyl-imidazol-1-yl]-1H-pyridin-2-one | ClC=1C=C(C=CC1)C#CC=1N=C(N(C1C)C1=CC(NC=C1)=O)C | C18H14ClN3O
